US08048825B2
3-(2-Aminobenzyl)-6-phenyl-[1,3]-oxazinan-2-one (1.33 g, 4.72 mmol) and triethylamine (0.50 g, 4.95 mmol) were dissolved in chloroform (20 ml) and the reaction solution was cooled to −10° C. Trifluoromethanesulfonic anhydride (1.40 g, 4.96 mmol) was slowly added dropwise and stirred at temperature as is for two hours. The reaction mixture was poured into iced water and pH was adjusted from 3 to 4 with 0.5 N hydrochloric acid water and the reaction mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure after the organic layer was dried over anhydrous sodium sulfate. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 6-phenyl-3-[2-(trifluoromethanesulfonylamino)benzyl]-[1,3]-oxazinan-2-one (1.70 g).

reactant | 3-(2-Aminobenzyl)-6-phenyl-[1,3]-oxazinan-2-one | 4.72 mmol, 1.33 g | NC1=C(CN2C(OC(CC2)C2=CC=CC=C2)=O)C=CC=C1 | C17H18N2O2
reactant | triethylamine | 4.95 mmol, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 4.96 mmol, 1.40 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid water | 0.5 N | O.Cl
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 6-phenyl-3-[2-(trifluoromethanesulfonylamino)benzyl]-[1,3]-oxazinan-2-one | 1.70 g | C1(=CC=CC=C1)C1CCN(C(O1)=O)CC1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F | C18H17F3N2O4S
